Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
 Mr. ___ is a ___ w/ PMH of COPD (on 3L home O2), ongoing 
tobacco use, lung cancer s/p LUL lobectomy, CAD hx MI, PVD s/p 
stenting, AAA s/p endovascular repair, DM2, HTN, HLD, recent 
admission to ___ from ___ (discharged yesterday) for 
COPD exacerbation, presenting with respiratory distress 
worsening since discharge yesterday. He reports no acute 
worsening of his symptoms; he has experienced a gradual 
worsening of his respiratory function since discharge. In the ED 
he reported fever at home to 100.5 F. No chest pain.  
 
 In the ED, initial vitals: 98.6 132 188/98 26 100% Nebulizer. 
Exam notable for a patient in respiratory distress with 
accessory muscle use; lungs with diffuse expiratory wheeze, mild 
abdominal tenderness, and bilateral ___ edema. Labs notable for 
WBC 16.3 w/ 79% PMNs, Hgb 11.8, plts 127, trop <0.01 x1, BUN/Cr 
___ (baseline Cr 0.8-1.0), HCO3 36, other lytes WNL, 
influenza PCR pending, VBG 7.37/68/--/41. CXR showed a 
retrocardiac opacity concerning for pneumonia. CXR also notable 
for an L pleural effusion (sequellae of LUL lobectomy, unchanged 
from prior) Patient was placed on BiPAP (PSV ___, PEEP 5, FiO2 
1.0 for respiratory distress (with note made that obtaining seal 
was difficult due to patient's beard). He received 
Methylprednisolone 125 mg IV x1, Azithromycin 500 mg x1, 
Cefepime 2g IV x1, albuterol/ipratropium nebs and was admitted 
to the ICU. On transfer, vitals were: 120 155/77 30 98% neb.  
 On arrival to the MICU, the patient was in mild respiratory 
distress and reported no other complaints. He was generally slow 
to respond to questions and on my interview denied fever at home 
or worsening cough. He reports feeling confused.  
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
 
 
Past Medical History:
Per OMR, verified with patient
COPD on 3L at baseline
HTN
Stage 1a NSCLC s/p LUL lobectomy
CAD - hx of MI ___ years ago)
Delusional disorder
Lumbar radiculopathy
Chronic back pain
PVD s/p stenting 
OSA
Peripheral neuropathy
GERD
HLD
T2DM non-insulin dependent 
Incisional hernia
AAA s/p endovascular repair 
 
Social History:
___
Family History:
Per OMR, reviewed with patient
Patient does not know family history. He recalls that his mother 
had duodenal ulcers.  
1 sister: deceased 
mother: deceased 
daughter: good health 
father: not known  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.9, HR 110s, 154/81, ___, 92% on 2.5L
GENERAL: Alert, in mild respiratory distress
HEENT: Sclera anicteric, MM dry, oropharynx clear  
NECK: supple, cannot assess JVP, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, good air 
movement.  Mildly decreased breath sounds at R base.  
CV: Regular rate and rhythm, normal S1 S2, tachycardic, no 
murmurs
ABD: soft, non-tender, non-distended, bowel sounds present
EXT: Warm, well perfused, 1+ edema to knees bilaterally, 2+ 
pulses
SKIN:  No rash, ___ venous stasis changes
NEURO:  AOx3, moving all extremities, very slow to respond to 
questions but answers appropriately.  

DISCHARGE PHYSICAL EXAM:
Vitals: 98.8 | 122/62 | 98 | 20 | 95% 3L NC |
General: A&O, awake and interactive though visibly short of 
breath while conversing
HEENT: sclera anicteric, pupils equal round and reactive to 
light, extraocular movements are intact, MMM, oropharynx clear  
Neck: supple, no evidence of lymphadenopathy  
Lungs: comfortable work of breathing, occasional expiratory 
wheezes throughout the lower lung fields, no rhonchi appreciated 

CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Well healed median supra-umbilical incision scar. 
Reducible nontender incisional hernia in the RLQ Normal bowel 
sounds.  Soft, non-tender. No masses. 
Ext: warm, well perfused, 2+ pulses, venous stasis changes, 
trace edema, no cords or erythema appreciated in lower 
extremities bilaterally,  no tenderness to palpation in lower 
extremities   
Neuro: CNs2-12 intact

 
Pertinent Results:
ADMISSION LABS: 
___ 08:26AM BLOOD WBC-16.3*# RBC-4.19* Hgb-11.8* Hct-38.8* 
MCV-93 MCH-28.2 MCHC-30.4* RDW-16.2* RDWSD-55.2* Plt ___
___ 08:26AM BLOOD Neuts-79.6* Lymphs-9.4* Monos-9.3 
Eos-0.2* Baso-0.2 NRBC-0.2* Im ___ AbsNeut-12.97*# 
AbsLymp-1.53 AbsMono-1.52* AbsEos-0.03* AbsBaso-0.03
___ 08:26AM BLOOD Plt ___
___ 03:20AM BLOOD Plt ___
___ 05:39AM BLOOD ___ PTT-24.3* ___
___ 08:26AM BLOOD Glucose-145* UreaN-21* Creat-0.9 Na-139 
K-4.2 Cl-94* HCO3-36* AnGap-13
___ 08:26AM BLOOD Calcium-9.4 Phos-3.1 Mg-1.7
___ 10:34AM BLOOD ___ pO2-64* pCO2-68* pH-7.37 
calTCO2-41* Base XS-10
___ 10:34AM BLOOD O2 Sat-90

PERTINENT INTERVAL LABS:
___ 08:26AM BLOOD cTropnT-<0.01

IMAGING/STUDIES: 

___ ___ 
No evidence of deep venous thrombosis in the left lower 
extremity veins.  The peroneal veins were not well seen. 

___ CXR 
Retrocardiac opacity obscuring medial left hemidiaphragm 
potentially 
atelectasis however infectious process cannot be excluded.  
Consider PA and lateral chest radiograph if patient amenable. 

___ CXR 
Heart size is upper limits of normal but stable.  There is again 
seen some 
elevation of the left hemidiaphragm with a left-sided pleural 
effusion and 
area consolidation within the left base posteriorly as seen on 
the lateral 
view.  This is unchanged.  The right lung is clear.  Thoracotomy 
changes of the left rib cage are seen.  There are no 
pneumothoraces. 

___ ECG
Sinus tach @ 138 bpm, frequent PACs, likely old inferior infarct

MICROBIOLOGY:
___ BCx x2 neg
legionella, sputum cx no pathogenic orgs (commensal flora only)

DISCHARGE LABS:

___ 05:45AM BLOOD WBC-9.6 RBC-3.65* Hgb-10.1* Hct-33.0* 
MCV-90 MCH-27.7 MCHC-30.6* RDW-15.4 RDWSD-51.2* Plt ___
___ 05:45AM BLOOD Glucose-139* UreaN-23* Creat-0.9 Na-136 
K-3.9 Cl-92* HCO3-34* AnGap-___ M w/ PMH of COPD (on 3L home O2), ongoing tobacco use, lung 
cancer s/p LUL lobectomy, recent admission to ___ from 
___ for COPD exacerbation who presented on ___ worsening 
difficulty breathing since discharge and found to have new CXR 
infiltrate, leukocytosis, and fever concerning for healthcare 
associated pneumonia. He subsequently developed worsening cough 
with sputum production and wheezing consistent with COPD 
exacerbation. 

Primary Issues:

# HCAP: 
Patient presented with leukocytosis and fever with new CXR 
infiltrate suggesting HCAP as etiology of presenting hypoxemic 
respiratory failure. Though leukocytosis may have been secondary 
to recent steroid administration from prior admission he was 
treated with broad spectrum antibiotics (vancomycin, cefepime, 
and azithromycin) and narrowed to complete 7 day antibiotic 
course ( ___ = day 1) with levofloxacin. Blood cultures showed 
no growth to date and sputum cultures notable for commensal 
flora and no pathogens. 

# COPD Exacerbation: 
On Hospital day ___  patient experienced a worsening cough 
and increased wheezing. At this time was thought to have COPD 
exacerbation and started on  high dose steroids ___ = day 1), 
but given his very recent previous exacerbation and recurrent 
disease with severe COPD, he was put on a long taper (as below). 
He was given standing nebulizer treatment with albuterol and 
maintained on his home regimen of fluticasone, guaifenesin, and 
tiotropium bromide. He showed clinical improvement with 
diminished cough, sputum, and improved work of breathing with 
this regimen. His nebulizer treatments were spaced out from 
standing q6hr doses to q6hr PRN. 

Active Issues:

 # DM2:  
During admission patient's home metformin was held and his blood 
glucose were monitored and treated with insulin sliding scale. 
On the day prior to discharge patient was restarted on home 
Metformin 1000 mg BID. Required insulin standing (NPH 10u sc 
bid) and Humalog sliding scale while in-house, likely due to 
ongoing steroid use.

#Thrombocytopenia /Anemia: 
Platelets were within 100-130 range throughout admission. 
Etiology of thrombocytopenia is unclear. This is a chronic issue 
for this patient. Throughout his stay he had no bleeds and his 
hematocrit was stably low 33-38 range 

 # Current smoking:  
Encouraged cessation during admission and provided with daily 
nicotine patch

 
Stable Issues
 # CAD/HLD:  
Patient was maintained on his home aspirin and rosuvastatin 
regimen during hospital admission. Metoprolol was fractionated 
during admission and restarted to home regimen one day prior to 
discharge.   

 # PVD, Hx of AAA s/p repair:  
 Patient was continued on home Cilostazol 100 mg PO BID  

 # HTN:  
During admission patient was placed on fractionated dose of 
Diltiazem and subsequently transitioned to home regimen one day 
prior to discharge.

 # Chronic pain:  
Pain was managed with home regimen of acetaminophen, gabapentin, 
tramadol and lidocaine.

 # GERD:  
 Home regimen of Omeprazole 20 mg PO BID was continued 
throughout admission
 
 # BPH:  
 Patient was provided home Tamsulosin 0.4 mg PO QHS   

Transitional Issues:
#Steroid Taper: 
___ - Decrease to 50 mg Prednisone Daily
___ - Decrease to 40 mg Prednisone Daily
___ - Decrease to 30 mg Prednisone Daily
___ - Decrease to 20 mg Prednisone Daily
___ - Decrease to 10 mg Prednisone Daily
___ - Stop Prednisone

#Insulin: Started on standing + HSS insulin given hyperglycemia 
during admission, likely in part due to high dose steroids. 
These requirements are likely to decrease as prednisone is 
tapered so pre-meal and night time glucose should be checked 
daily. Unclear if may require new insulin after discharge from 
rehab. 

#Pulmonary nodule up to 4 mm found on ___ CT scan in prior 
admission. Patient is a high risk patient given  lifetime 
smoking history and prior history of lung cancer. ___ 
___ pulmonary nodules recommends follow up for nodule size 
less than or equal to 4 mm at 12 months for high risk patients. 
If no change no further imaging is needed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. Cilostazol 100 mg PO BID 
5. Diltiazem Extended-Release 360 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Gabapentin 300 mg PO TID 
9. Gabapentin 300 mg PO QHS 
10. Guaifenesin ER 600 mg PO Q12H 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
12. Lidocaine 5% Patch 1 PTCH TD QAM 
13. Metoprolol Succinate XL 75 mg PO DAILY 
14. Omeprazole 20 mg PO BID 
15. Rosuvastatin Calcium 40 mg PO QPM 
16. Tamsulosin 0.4 mg PO QHS 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. TraMADol 100 mg PO Q6H:PRN pain 
19. Vitamin D 1000 UNIT PO DAILY 
20. budesonide-formoterol 160-4.5 mcg/actuation INHALATION BID 
21. Loratadine 10 mg PO DAILY 
22. MetFORMIN (Glucophage) 1000 mg PO BID 
23. mometasone 200 mcg/actuation inhalation BID 
24. Nicotine Patch 14 mg TD DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Cilostazol 100 mg PO BID 
4. Diltiazem Extended-Release 360 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Gabapentin 300 mg PO TID 
8. Guaifenesin ER 600 mg PO Q12H 
9. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Loratadine 10 mg PO DAILY 
12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. Metoprolol Succinate XL 75 mg PO DAILY 
14. Nicotine Patch 14 mg TD DAILY 
15. Omeprazole 20 mg PO BID 
16. Rosuvastatin Calcium 40 mg PO QPM 
17. Gabapentin 300 mg PO QHS 
18. Tamsulosin 0.4 mg PO QHS 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. TraMADol 100 mg PO Q6H:PRN pain 
21. Vitamin D 1000 UNIT PO DAILY 
22. PredniSONE 60 mg PO DAILY Duration: 1 Dose 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis: Chronic Obstructive Pulmonary Disease 
Exacerbation and Healthcare Associated Pneumonia

Secondary Diagnoses: 
Hypertension 
Diabetes mellitus
Coronary Artery Disease 
Hyperlipidemia
Gastrointestinal Reflux Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You came to the hospital on ___ because you were 
experiencing difficulty breathing after your recent 
hospitalization. You were evaluated and found to have a 
pneumonia and a chronic obstructive pulmonary disease (COPD) 
exacerbation. You were treated with steroids, antibiotics, and 
breathing treatments (nebulizers). After several days of care 
you began to feel better. It was a pleasure taking care of you. 
We wish you well.

Sincerely,
Your ___ Care ___   
 
Followup Instructions:
___